US06316639B1
Preparation of 3-nitro-N-hydroxyphthalimide
Analogous to Example 4, but from 500 mg (2.37 mmol) of 3-nitrophthalic acid and 187 mg (0.947 mmol) of hydroxylammonium phosphate at a bath temperature of 130° C. The yield was 443 mg (90%).

reactant | 3-nitrophthalic acid | 2.37 mmol, 500 mg | [N+](=O)([O-])C1=C(C(C(=O)O)=CC=C1)C(=O)O | C8H5NO6
reactant | hydroxylammonium phosphate | 0.947 mmol, 187 mg | P(=O)([O-])([O-])[O-].O[NH3+].O[NH3+].O[NH3+]
product | 3-nitro-N-hydroxyphthalimide | [N+](=O)([O-])C1=C2C(C(=O)N(C2=O)O)=CC=C1 | C8H4N2O5
